US09290487B2
Step 1 Synthesis of 1-[(2-bromo-4,5-difluorophenyl)thio]acetone
2-Bromo-4,5-difluorobenzenethiol (900 mg, 4.00 mmol) and potassium carbonate (1.11 g, 8.00 mmol) were suspended in DMF (20 mL), and bromoacetone (0.403 mL, 4.80 mmol) was added thereto, and stirred at room temperature overnight. The reaction solution was concentrated under reduced pressure. After diluted with ethyl acetate, the resultant was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was distilled away under reduced pressure. The resulting residue was purified by silica gel chromatography (hexane/ethyl acetate) to thus obtain the title compound.

reactant | 2-Bromo-4,5-difluorobenzenethiol | 4.00 mmol, 900 mg | BrC1=C(C=C(C(=C1)F)F)S | C6H3BrF2S
reactant | potassium carbonate | 8.00 mmol, 1.11 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetone | 4.80 mmol, 0.403 mL | BrCC(C)=O | C3H5BrO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-[(2-bromo-4,5-difluorophenyl)thio]acetone | yield: 71% | BrC1=C(C=C(C(=C1)F)F)SCC(=O)C | C9H7BrF2OS
